US05374454
An anthracene reducing solution is prepared as described in Example 1. A transparent film of Teflon® PFA measuring 2 cm×10 cm×2 mil thick is immersed in the anthracene/DMF bath for 5 min and Pd seeded and an electroless Cu film is deposited as described in Example 1.

reactant | anthracene DMF | C1=CC=CC2=CC3=CC=CC=C3C=C12.CN(C)C=O
catalyst | Pd | [Pd] | Pd
product | anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
